US06194410B1
In an analogous manner to that described in Example 6, from 7-chloro-5-methyl-2-methylsulphanyl-3-(naphthalene-2-sulphonyl)-pyrazolo[1,5-a]pyrimidine and dimethyl-amine in EtOH there was obtained dimethyl-[5-methyl-2-methylsulphanyl-3-(naphthalene-2-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine as colorless crystals, m.p.>230°.

reactant | 7-chloro-5-methyl-2-methylsulphanyl-3-(naphthalene-2-sulphonyl)-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC1=CC=CC=C1C=C2)SC)C | C18H14ClN3O2S2
reactant | dimethyl-amine | CNC | C2H7N
solvent | EtOH | CCO | C2H6O
product | dimethyl-[5-methyl-2-methylsulphanyl-3-(naphthalene-2-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-amine | CN(C1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC1=CC=CC=C1C=C2)SC)C)C | C20H20N4O2S2
